US07608254B2
To a suspension of 3.2 g (133 mmol) sodium hydride (freed from paraffin) in 105 ml ice cold abs. tetrahydrofuran was added 6.2 g (39.5 mmol) (S)-dec-9-ene-2-ol under argon. After stirring for 2 h, 470 mg (1.3 mmol) tetra-n-butyl ammonium iodide were added, followed by dropwise addition of 13.5 g (9.4 ml, 78.9 mmol) benzyl bromide, while stirring was continued for 12 h. Subsequently, 50 ml saturated aqueous ammonium chloride solution were added at 0° C. followed by 50 ml hexane. The aqueous layer was separated and extracted four times with 100 ml of a 1:4 mixture of ethyl acetate/hexane. The combined organic layers were dried over magnesium sulphate and concentrated in vacuo. Flash chromatography (5% ethyl acetate in hexane furnished 9.7 g (39.4 mmol, 100%) (S)-2-benzyloxydec-9-ene.

reactant | sodium hydride | 133 mmol, 3.2 g | [H-].[Na+]
reactant | (S)-dec-9-ene-2-ol | 39.5 mmol, 6.2 g | C[C@@H](CCCCCCC=C)O | C10H20O
reactant | benzyl bromide | 78.9 mmol, 9.4 ml, 13.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
catalyst | tetra-n-butyl ammonium iodide | 1.3 mmol, 470 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-2-benzyloxydec-9-ene | 39.4 mmol, 9.7 g, 100% | C(C1=CC=CC=C1)O[C@@H](C)CCCCCCC=C | C17H26O
